US08012974B2
2-Bromo-7-chloro-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine (1.31 g, 3.61 mmol), benzhydrylideneamine (0.67 mL, 3.97 mmol), Cs2CO3 (2.35 g, 7.22 mmol), Pd(OAc)2 (81 mg, 0.361 mmol) and BINAP (225 mg, 0.361 mmol) were dissolved in THF (36 mL) and heated at 100° C. overnight, cooled to RT, partitioned between EtOAc and brine. The organic layer was dried (MgSO4), filtered, concentrated, and purified by SiO2 chromatography (150 g SiO2, hexanes/EtOAc 0-25% EtOAc) to give 992 mg of benzhydrylidene-[7-chloro-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-amine as a yellow liquid (59% yield).

reactant | 2-Bromo-7-chloro-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine | 3.61 mmol, 1.31 g | BrC=1N=C2C(=NC1)N(C=C2Cl)COCC[Si](C)(C)C | C12H17BrClN3OSi
reactant | benzhydrylideneamine | 3.97 mmol, 0.67 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | Cs2CO3 | 7.22 mmol, 2.35 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | BINAP | 0.361 mmol, 225 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | THF | 36 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.361 mmol, 81 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | benzhydrylidene-[7-chloro-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-amine | 992 mg, 59% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1N=C2C(=NC1)N(C=C2Cl)COCC[Si](C)(C)C | C25H27ClN4OSi
